US08309580B2
(1) 4-[chloro(2-methyl-5-phenylfuran-3-yl)methyl]tetrahydro-2H-pyran
To a solution of (2-methyl-5-phenylfuran-3-yl) (tetrahydro-2H-pyran-4-yl)methanol (1.8 g) in toluene (20 mL) was added thionyl chloride (1.4 mL), and the mixture was stirred at room temperature overnight. The solvent was evaporated under reduced pressure to give the title compound (1.9 g, 100%) as an oil.

reactant | (2-methyl-5-phenylfuran-3-yl) (tetrahydro-2H-pyran-4-yl)methanol | 1.8 g | CC=1OC(=CC1C(O)C1CCOCC1)C1=CC=CC=C1 | C17H20O3
reactant | thionyl chloride | 1.4 mL | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 4-[chloro(2-methyl-5-phenylfuran-3-yl)methyl]tetrahydro-2H-pyran | 1.9 g, 100% | ClC(C1CCOCC1)C1=C(OC(=C1)C1=CC=CC=C1)C | C17H19ClO2
